US07906502B2
N-({4-[(2R,3R)-3-{[2-(2,3-dihydro-1,4-benzodioxin-6-yl)-2-hydroxyethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycyl-3-methyl-D-valine
To a solution of N-[(4-{(2R,3R)-1-(4-fluorophenyl)-3-[(3-nitropyridin-2-yl)dithio]-4-oxoazetidin-2-yl}phenoxy)acetyl]glycyl-3-methyl-D-valine (0.030 g, 0.045 mmol) in acetone/water (2/0.5 ml) was added triphenylphosphine (0.012 g, 0.045 mmol). After 30 minutes the solvent was evaporated and to the residue was added dichloromethane (2 ml) and triethylamine (0.018 g, 0.179 mmol) followed by the addition of 2-bromo-1-(2,3-dihydro-1,4-benzodioxin-6-yl)ethanone (0.029 g, 0.112 mmol). After 10 minutes the reaction was quenched by the addition of water (1 ml) followed by concentration of the mixture. MeOH (2 ml) was added followed by the addition of sodium borohydride (0.017 g, 0.447 mmol). Full conversion to the corresponding alcohol was achieved within 5 minutes. The reaction was quenched by the addition of 0.1M NH4OAc buffer (1 ml). Preparative HPLC of the mixture using an eluent of 20-45% CH3CN in 0.1M NH4OAc buffer followed by freeze drying of pure fractions afforded the desired compound. m/z: 694.7 (M−1). 1H NMR [(CD3)2SO), 400 MHz] δ 0.89 (s, 9H), 2.78-2.89 (m, 2H), 3.82 (d, 2H), 4.05-4.28 (m, 6H), 4.51 (s, 2H), 4.55-4.61 (m, 1H), 5.01-5.03 (m, 1H), 6.72-7.37 (m, 11H), 7.81-7.87 (m, 1H), 8.25 (t, 1H).

reactant | N-[(4-{(2R,3R)-1-(4-fluorophenyl)-3-[(3-nitropyridin-2-yl)dithio]-4-oxoazetidin-2-yl}phenoxy)acetyl]glycyl-3-methyl-D-valine | 0.045 mmol, 0.030 g | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SSC1=NC=CC=C1[N+](=O)[O-])C1=CC=C(OCC(=O)NCC(=O)N[C@H](C(C)(C)C)C(=O)O)C=C1 | C30H30FN5O8S2
reactant | triphenylphosphine | 0.045 mmol, 0.012 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.179 mmol, 0.018 g | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-1-(2,3-dihydro-1,4-benzodioxin-6-yl)ethanone | 0.112 mmol, 0.029 g | BrCC(=O)C1=CC2=C(OCCO2)C=C1 | C10H9BrO3
reactant | sodium borohydride | 0.447 mmol, 0.017 g | [BH4-].[Na+]
solvent | acetone water | 0.5 ml | CC(=O)C.O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-({4-[(2R,3R)-3-{[2-(2,3-dihydro-1,4-benzodioxin-6-yl)-2-hydroxyethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycyl-3-methyl-D-valine | O1CCOC2=C1C=CC(=C2)C(CS[C@@H]2[C@H](N(C2=O)C2=CC=C(C=C2)F)C2=CC=C(OCC(=O)NCC(=O)N[C@H](C(C)(C)C)C(=O)O)C=C2)O | C35H38FN3O9S
